US07834063B2
4-((Cyclopropylmethyl){2-[(4-fluorophenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(cyclopropylmethyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-fluorophenol: MS (APCI) m/z 379 (M+1).

reactant | 4-[(cyclopropylmethyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO | C14H15F3N2O
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4-((Cyclopropylmethyl){2-[(4-fluorophenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile | C1(CC1)CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)F | C20H18F4N2O
